US03956374
4-(2,4-Dichlorobenzyl)-4-phenyl-5-oxo-7-(p-chlorophenyl)-6-heptenoic Acid
p-Chlorobenzaldehyde (3.5 g., 0.025 mole) in ethanol (10 ml.) is added to a solution of 4-(2,4-dichlorobenzyl)-4-phenyl-5-oxohexanoic acid (5.48 g., 0.015 mole) and sodium hydroxide (0.80 g., 0.03 mole) in water (50 ml.). The resulting mixture is heated on a steam bath for 24 hours. Then the reaction solution is cooled to room temperature, diluted with water (200 ml.) and extracted with ether to remove the excess p-chlorobenzaldehyde. The aqueous phase is then acidified with dilute hydrochloric acid (10 ml.), and the sticky solid which precipitates is filtered and air-dried, yield 5.5 g., m.p. 215°-226°C. Recrystallizations from ethanol gives material with m.p. 224.5°-227°C.

reactant | p-Chlorobenzaldehyde | 0.025 mole, 3.5 g | ClC1=CC=C(C=O)C=C1 | C7H5ClO
reactant | 4-(2,4-dichlorobenzyl)-4-phenyl-5-oxohexanoic acid | 0.015 mole, 5.48 g | ClC1=C(CC(CCC(=O)O)(C(C)=O)C2=CC=CC=C2)C=CC(=C1)Cl | C19H18Cl2O3
reactant | sodium hydroxide | 0.03 mole, 0.80 g | [OH-].[Na+]
solvent | ethanol | 10 ml | C(C)O | C2H6O
solvent | water | 50 ml | O | H2O
solvent | water | 200 ml | O | H2O
product | 4-(2,4-Dichlorobenzyl)-4-phenyl-5-oxo-7-(p-chlorophenyl)-6-heptenoic Acid | ClC1=C(CC(CCC(=O)O)(C(C=CC2=CC=C(C=C2)Cl)=O)C2=CC=CC=C2)C=CC(=C1)Cl | C26H21Cl3O3
